US05290789
A mixture of 2,3,4-trimethyl-l-(phenylmethyl)-3-piperidinepropanol (45.0 g, 163 mmol), ethanol (200 mL) and 10% palladium on carbon (4.5 g) was placed on a Parr hydrogenator at 50 psi of hydrogen pressure until hydrogen uptake ceased. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was crystallized from ether to afford 24.9 g (82%) of 2.3.4-trimethyl-3-piperidinepropanol. The product was recrystallized from ethyl acetate and had a melting point of 89-91° C.

reactant | 2,3,4-trimethyl-l-(phenylmethyl)-3-piperidinepropanol | 163 mmol, 45.0 g | CC1N(CCC(C1(CCCO)C)C)CC1=CC=CC=C1 | C18H29NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 4.5 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2.3.4-trimethyl-3-piperidinepropanol | 24.9 g, 82% | CC1NCCC(C1(CCCO)C)C | C11H23NO
